US08420676B2
Preparation of (R)-3-(4-(2-(2-methyl-[1,3,4]oxadiazol-5-yl)pyridin-5-yl)-3,4-difluorophenyl)-5-hydroxymethyl oxazolidin-2-one (compound 39)
The same procedure as in Example 1 was conducted by using (R)-3-(4-trimethylstannyl-3,4-difluorophenyl)-2-oxo-5-oxazolidinylmethanol and 2-(2-methyl-[1,3,4]oxadiazol-5-yl)-5-bromopyridine as a starting material, to prepare the title compound.

reactant | (R)-3-(4-trimethylstannyl-3,4-difluorophenyl)-2-oxo-5-oxazolidinylmethanol | C[Sn](C1(C(C=C(C=C1)N1C(O[C@H](C1)CO)=O)F)F)(C)C
reactant | 2-(2-methyl-[1,3,4]oxadiazol-5-yl)-5-bromopyridine | CC=1OC(=NN1)C1=NC=C(C=C1)Br | C8H6BrN3O
product | (R)-3-(4-(2-(2-methyl-[1,3,4]oxadiazol-5-yl)pyridin-5-yl)-3,4-difluorophenyl)-5-hydroxymethyl oxazolidin-2-one | CC=1OC(=NN1)C1=NC=C(C=C1)C1(C(C=C(C=C1)N1C(O[C@H](C1)CO)=O)F)F | C18H16F2N4O4
